US05391556
4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide
410 mg (0.8 mMol) of 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(piperidin-4-on-1-yl]-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide are dissolved in 8 ml of absolute dimethylformamide, mixed with 100 mg (2.6 mMol) of sodium borohydride and left to stand for 12 hours at ambient temperature. Then the reaction mixture is poured into water and extracted 3 times with ethyl acetate. The organic phase is washed twice with water, dried with sodium sulphate and evaporated down. The residue is purified over a silica gel column, the evaporated eluate is triturated with ether and suction filtered.

reactant | 4-amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(piperidin-4-on-1-yl]-2-oxo-ethyl]-3,5-dichloro-benzenesulphonamide | 0.8 mMol, 410 mg | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)=O)CC1=CC2=C(NC=N2)C=C1)Cl | C21H21Cl2N5O4S
reactant | sodium borohydride | 2.6 mMol, 100 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 4-Amino-N-[1-(1H-benzimidazol-5-yl-methyl)-2-(4-hydroxy-piperidin-1-yl)-2-oxo-ethyl]-3,5-dichlorobenzenesulphonamide | NC1=C(C=C(C=C1Cl)S(=O)(=O)NC(C(=O)N1CCC(CC1)O)CC1=CC2=C(NC=N2)C=C1)Cl | C21H23Cl2N5O4S
